US07919506B2
N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine
To a solution of N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2H-tetrazol-5-amine (145 mg; 0.243 mmol) in 2-methyltetrahydrofuran (2.5 mL) was added sodium carbonate (110 mg; 1.03 mmol), N,N-dimethylformamide (1.0 mL) and dimethyl sulfate (70 uL; 0.739 mmol). Reaction was stirred for 16 hours at 60° C. The reaction was diluted with ethyl acetate, washed twice with water and then brine. The organic was dried sodium sulfate and concentrated under reduced pressure. The residue was purified by 12 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 10-30% ethyl acetate in heptane) to give 120 mg (80.9% yield) of a colorless gum which crystallized into a white solid upon sitting. Melting point: 103-104° C. MS (ES+): Calc: 609.5, Found: 610.5 (M+H). 1H NMR (400 MHz, CDCl3) δ ppm 7.77 (s, 1H), 7.72 (s, 2H), 7.47 (d, J=7.47 Hz, 1H), 7.46 (s, 1H), 7.41 (d, J=8.30 Hz, 1H), 5.10 (s, 2H), 4.79 (s, 2H), 4.20 (s, 3H), 2.94 (s, 3H), 2.12 (m, 2H), 1.97 (m, 2H), 1.8-1.46 (m, 8H).

reactant | N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2H-tetrazol-5-amine | 0.243 mmol, 145 mg | COC1(CCCCCC1)C1=C(CN(C=2N=NNN2)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C26H26F9N5O
reactant | sodium carbonate | 1.03 mmol, 110 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
reactant | dimethyl sulfate | 0.739 mmol, 70 uL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | 2-methyltetrahydrofuran | 2.5 mL | CC1OCCC1 | C5H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | 120 mg, 80.9% yield | COC1(CCCCCC1)C1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C27H28F9N5O
